US07906677B2
N-(2′,3′,6′-trifluorophenyl)-N-chloroacetyl-4-ethylaniline
Same procedure as example 6a, starting from 2,3,6-trifluorophenol and 2-chloro-N-(4-ethylphenyl)acetamide. The crude intermediate N-(2′,3′,6′-trifluorophenyl)-4-ethylaniline was roughly purified by filtration on silica using toluene as eluent.

reactant | 2,3,6-trifluorophenol | FC1=C(C(=CC=C1F)F)O | C6H3F3O
reactant | 2-chloro-N-(4-ethylphenyl)acetamide | ClCC(=O)NC1=CC=C(C=C1)CC | C10H12ClNO
product | N-(2′,3′,6′-trifluorophenyl)-N-chloroacetyl-4-ethylaniline | FC1=C(C(=CC=C1F)F)N(C1=CC=C(C=C1)CC)C(CCl)=O | C16H13ClF3NO
